US05721246
7-Nitro-1H-indole (1.076 g, 6.64 mmol) was dissolved in 30 ml of acetonitrile, followed by the addition of 920 mg (6.89 mmol) of N-chlorosuccinimide. The obtained mixture was stirred at room temperature for 36 hours. A saturated aqueous solution of sodium hydrogencarbonate was added to the resulting mixture to form a precipitate. The precipitate was recovered by filtration and washed with water to give 1.2 g of powdery 3-chloro-7-nitro-1H-indole. This powder (863 mg, 4.39 mmol) was suspended in 10 ml of ethanol, followed by the addition of 4.95 g (21.9 mmol) of stannous chloride dihydrate and 100 μl of concentrated hydrochloric acid. The obtained mixture was heated under reflux for 30 minutes, followed by the addition of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was filtered to remove insolubles. Ethyl acetate was added to the filtrate to conduct extraction. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 490 mg of the title compound.

reactant | 7-Nitro-1H-indole | 6.64 mmol, 1.076 g | [N+](=O)([O-])C=1C=CC=C2C=CNC12 | C8H6N2O2
reactant | N-chlorosuccinimide | 6.89 mmol, 920 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-chloro-7-nitro-1H-indole | 1.2 g | ClC1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C8H5ClN2O2
